US09216999B2
4-Aminoadamantan-1-ol
Concentrated sulfuric acid (35 mL) was mixed with concentrated nitric acid (4.5 mL) and 2-adamantylamine (5.10 g, 4.57 mmol) under cooling with ice, and the reaction mixture was stirred at room temperature for 2 hours. The reaction mixture was added to ice water and adjusted to pH 10 with 7.5 M aqueous sodium hydroxide. After addition of water, the reaction mixture was extracted with chloroform, and the organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give the title compound as a yellow solid (2.79 g, yield 61%).

reactant | sulfuric acid | 35 mL | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 4.5 mL | [N+](=O)(O)[O-] | HNO3
reactant | 2-adamantylamine | 4.57 mmol, 5.10 g | C12C(C3CC(CC(C1)C3)C2)N | C10H17N
reactant | sodium hydroxide | 7.5 M | [OH-].[Na+]
solvent | water | O | H2O
product | 4-Aminoadamantan-1-ol | 2.79 g, yield 61% | NC1C2CC3(CC(CC1C3)C2)O | C10H17NO
